US07253286B2
N-(4-(6-Cyano-7-(3-((cyclopropylamino)carbonyl)propoxy)-4-quinolyl)oxy-2-fluorophenyl)-N′-(4-fluorophenyl)urea
N-(4-(6-Cyano-7-(3-carboxypropoxy)-4-quinolyl)oxy-2-fluorophenyl)-N′-(4-fluorophenyl)urea (100 mg) was dissolved in dimethylformamide (3 ml), and then 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide (44 mg) and 1-hydroxy-1H-benzotriazole (35 mg) were added while stirring on ice and the mixture was stirred at room temperature for 30 minutes. Cyclopropylamine (16 μl) was then added and the mixture was stirred at room temperature for 18 hours. After completion of the reaction, the reaction solution was poured into 1N sodium hydroxide water and extracted with ethyl acetate, and the obtained organic layer was washed with saturated brine and dried over magnesium sulfate. The organic layer was concentrated, and the obtained solid was washed with ether and a small amount of ethyl acetate to obtain 38 mg of the title compound.

reactant | N-(4-(6-Cyano-7-(3-carboxypropoxy)-4-quinolyl)oxy-2-fluorophenyl)-N′-(4-fluorophenyl)urea | 100 mg | C(#N)C=1C=C2C(=CC=NC2=CC1OCCCC(=O)O)OC1=CC(=C(C=C1)NC(=O)NC1=CC=C(C=C1)F)F | C27H20F2N4O5
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide | 44 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | 1-hydroxy-1H-benzotriazole | 35 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | Cyclopropylamine | 16 μl | C1(CC1)N | C3H7N
reactant | sodium hydroxide water | 1N | O.[OH-].[Na+]
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | N-(4-(6-Cyano-7-(3-((cyclopropylamino)carbonyl)propoxy)-4-quinolyl)oxy-2-fluorophenyl)-N′-(4-fluorophenyl)urea | 38 mg | C(#N)C=1C=C2C(=CC=NC2=CC1OCCCC(=O)NC1CC1)OC1=CC(=C(C=C1)NC(=O)NC1=CC=C(C=C1)F)F | C30H25F2N5O4
